US04089960
10.5 g (0.063 mole) of methyl 3-methoxypicolinate and 17.6 g (0.137 mole) of 1-ethyl-2-(aminomethyl)-pyrrolidine are heated under nitrogen for 6 hours to 80° C. The excess base is distilled off in a high vacuum at 50° C and the oily residue is dissolved in methylene chloride and treated with 12 ml of 6 N ethanolic hydrochloric acid. The solvent is evaporated in vacuo and the oily residue is crystallised by trituration with ether. The crystals are collected by filtration and recrystallised from isopropanol-ethyl acetate to yield crude N-[(1-ethyl-2-pyrrolidinyl)-methyl]-3-methoxypicolinamide hydrochloride. The combined mother solutions are concentrated in vacuo and the free base is recovered as solution with 2 N sodium hydroxide solution and methylene chloride. The solution is concentrated, the residue dissolved in chloroform and chromatographed through a column of 60 g of silica gel with chloroform-methanol (98:2) as eluant. The base so obtained is again converted with ethanolic hydrochloric acid into the hydrochloride, which is recrystallised from ether. The combined crude hydrochlorides are recrystallised from isopropanol-ethyl acetate and yield pure N-[(1-ethyl-2-pyrrolidinyl)-methyl]-3-methoxypicolinamide hydrochloride with a melting point of 162°-163° C.

reactant | methyl 3-methoxypicolinate | 0.063 mole, 10.5 g | COC=1C(=NC=CC1)C(=O)OC | C8H9NO3
reactant | 1-ethyl-2-(aminomethyl)-pyrrolidine | 0.137 mole, 17.6 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | hydrochloric acid | Cl | ClH
product | N-[(1-ethyl-2-pyrrolidinyl)-methyl]-3-methoxypicolinamide hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=NC=CC=C1OC)=O | InChI=1S/C14H21N3O2.ClH/c1-3-17-9-5-6-11(17)10-16-14(18)13-12(19-2)7-4-8-15-13;/h4,7-8,11H,3,5-6,9-10H2,1-2H3,(H,16,18);1H
